US09359359B2
To a solution of ethyl 2-oxo-2-(2-oxopropylamino)acetate (1.7 g, 9.8 mmol) in toluene (10 mL) was added phosphorus oxychloride (2 mL). The mixture was heated to reflux for 3 h. The reaction was concentrated to dryness and the residue was taken up in ethyl acetate (20 mL). This organic phase was washed with saturated aqueous sodium bicarbonate solution and brine, dried and concentrated to give a crude product which was purified via silica gel chromatography eluting with petroleum ether/ethyl acetate (4:1) to give ethyl 5-methyloxazole-2-carboxylate (0.68 g, 44.1% yield) as yellow syrup. 1H-NMR (CDCl3) δ 6.97 (s, 1H), 4.44-4.49 (q, 2H), 2.43 (s, 3H), 1.42-1.46 (t, 2H). LCMS retention time 0.643 min; LCMS MH+ 156.

reactant | ethyl 2-oxo-2-(2-oxopropylamino)acetate | 9.8 mmol, 1.7 g | O=C(C(=O)OCC)NCC(C)=O | C7H11NO4
reactant | phosphorus oxychloride | 2 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | ethyl 5-methyloxazole-2-carboxylate | 0.68 g, 44.1% yield | CC1=CN=C(O1)C(=O)OCC | C7H9NO3
